** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t_write_snm.sch
**.subckt six_t_write_snm
XM2 q2 qb2 0 0 sky130_fd_pr__nfet_01v8 L=0.21 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM3 q2 qb2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.21 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM4 qb1 q1 0 0 sky130_fd_pr__nfet_01v8 L=0.21 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM5 qb1 q1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.21 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
v1 q1 0 1.8
v2 qb2 0 1.8
XM6 bl VDD qb1 0 sky130_fd_pr__nfet_01v8 L=0.21 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM7 blb VDD q2 0 sky130_fd_pr__nfet_01v8 L=0.21 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
**** begin user architecture code



.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD VDD 0 1.8
Vbl bl 0 0
Vblb blb 1.8 0

.control
dc V1 0 1.8 0.01
*wrdata dc1_out.txt v(q1) v(qb1)
dc V2 0 1.8 0.01
*wrdata dc2_out.txt v(q2) v(qb2)
plot dc1.v(q1) vs dc1.v(qb1) dc2.v(q2) vs dc2.v(qb2)

.endc




**** end user architecture code
**.ends
.GLOBAL VDD
.GLOBAL blb
.GLOBAL bl
.end
